US08865732B2
To a solution of 2-(4-fluorophenyl)oxazol-4(5H)-one (870 mg, 4.9 mmol) in DCM (25 mL) was added 2,6-lutidine (0.91 mL, 7.8 mmol) and trifluoromethanesulfonic anhydride (1.8 mL, 7.3 mmol) at 0° C. The reaction mixture was allowed to warm up to rt over ˜18 hr. The mixture was concentrated in vacuo and the residue was purified by flash chromatography (SiO2, 100% DCM) to give 1.40 g of 2-(4-fluorophenyl)oxazol-4-yl trifluoromethanesulfonate.

reactant | 2-(4-fluorophenyl)oxazol-4(5H)-one | 4.9 mmol, 870 mg | FC1=CC=C(C=C1)C=1OCC(N1)=O | C9H6FNO2
reactant | 2,6-lutidine | 7.8 mmol, 0.91 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 7.3 mmol, 1.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenyl)oxazol-4-yl trifluoromethanesulfonate | 1.40 g | FC(S(=O)(=O)OC=1N=C(OC1)C1=CC=C(C=C1)F)(F)F | C10H5F4NO4S
